US07205306B2
5-Chloro-3-(5-methoxy-7-methyl-2,3-dihydro-1H-indol-1-yl)-1-(1-methylpropyl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 1-sec-butyl-3,5-dichloro-2(1H)-pyrazinone and 5-methoxy-7-methylindoline hydrochloride as the starting materials. mp 176–178° C.; 1H NMR (300 MHz, CDCl3): δ 6.70 (s, 1 H), 6.66 (d, J=2.2 Hz, 1 H), 6.57 (d, J=2.2 Hz, 1 H), 4.98–4.91 (m, 1 H), 4.38 (t, J=7.7 Hz, 2 H), 3.77 (s, 3 H), 3.02 (t, J=7.7 Hz, 2 H), 2.04 (s, 3 H), 1.74–1.64 (m, 2 H), 1.33 (d, J=6.9 Hz, 3 H), 0.90 (t, J=7.5 Hz, 3 H); HRMS (ESI) calcd for C18H23N3O2Cl (M+H)+: 348.1479; found m/z 348.1490.

reactant | 1-sec-butyl-3,5-dichloro-2(1H)-pyrazinone | C(C)(CC)N1C(C(=NC(=C1)Cl)Cl)=O | C8H10Cl2N2O
reactant | 5-methoxy-7-methylindoline hydrochloride | Cl.COC=1C=C2CCNC2=C(C1)C
product | 5-Chloro-3-(5-methoxy-7-methyl-2,3-dihydro-1H-indol-1-yl)-1-(1-methylpropyl)-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)C(CC)C)=O)N1CCC2=CC(=CC(=C12)C)OC | C18H22ClN3O2
